US07473797B2
5-(4-Vinyl-phenyl)-pent-2-en-4-ynoic acid ethyl ester (Table 2, entry 7):
The general procedure was used to convert 1-Ethynyl-4-vinyl-benzene and (Z)-ethyl-3-iodoacrylate to the title product. Purification by flash chromatography (10% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow oil (420 mg, 95% yield). 1H NMR (400 MHz, CDCl3) δ 7.51-7.49 (d, J=8.3, 2H), 7.39-7.37 (d, J=8.3, 2H), 6.73-6.66 (dd, J=17.5, 10.8, 1H), 6.38-6.35 (d, J=11.4, 1H), 6.14-6.12 (d, J=11.4, 1H), 5.81-5.77 (d, J=17.6, 1H), 5.33-5.30 (d, J=10.9, 1H), 4.29-4.24 (q, J=7.1, 2H), 1.35-1.32 (t, J=7.1, 3H). 13C NMR (100 MHz, CDCl3) δ 164.92, 139.62, 132.12, 129.28, 127.83, 123.14, 119.76, 101.77, 86.19, 60.44, 21.66, 14.42. Anal. Calcd. for C14H14O2: C, 79.62; H, 6.24; Found C, 79.37; H, 6.48.

reactant | 1-Ethynyl-4-vinyl-benzene | C(#C)C1=CC=C(C=C1)C=C | C10H8
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 5-(4-Vinyl-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(C=CC#CC1=CC=C(C=C1)C=C)=O | C15H14O2
